US07297704B2
Step 1: 6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ethyl ester
4-Cyclohexanonecarboxylic acid ethyl ester (77 g, 450 mmol) and 4-fluorophenylhydrazine hydrochloride (72 g, 443 mmol) were refluxed in 1.25 L of anhydrous ethanol overnight. The resulting yellow solution was cooled, crystals filtered, the filtrate evaporated, the residue partitioned between ethyl acetate and water, organic layer dried over sodium sulfate, evaporated, crystallized from ethyl acetate/heptane to give 113 g (98%) of the desired product.

reactant | 4-Cyclohexanonecarboxylic acid ethyl ester | 450 mmol, 77 g | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | 4-fluorophenylhydrazine hydrochloride | 443 mmol, 72 g | Cl.FC1=CC=C(C=C1)NN
solvent | ethanol | 1.25 L | C(C)O | C2H6O
product | 6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ethyl ester | 113 g, 98% | C(C)OC(=O)C1CCC=2NC3=CC=C(C=C3C2C1)F | C15H16FNO2
